US08071779B2
2-(3-((3-(Isoquinolin-5-ylamino)pyrrolidin-1-yl)methyl)phenoxy)ethanol, Compound 2.042
Reaction of N-(pyrrolidin-3-yl)isoquinolin-5-amine with 3-(2-hydroxyethoxy)benzaldehyde using the method of Example 8 afforded the title compound.

reactant | N-(pyrrolidin-3-yl)isoquinolin-5-amine | N1CC(CC1)NC=1C=2C=CN=CC2C=CC1 | C13H15N3
reactant | 3-(2-hydroxyethoxy)benzaldehyde | OCCOC=1C=C(C=O)C=CC1 | C9H10O3
product | 2-(3-((3-(Isoquinolin-5-ylamino)pyrrolidin-1-yl)methyl)phenoxy)ethanol | C1=NC=CC2=C(C=CC=C12)NC1CN(CC1)CC=1C=C(OCCO)C=CC1 | C22H25N3O2
